US06358971B1
2-Amino-3-(3-fluorophenyl)-6-benzoyl-imidazo[1,2-a]pyridine
The 2-trifluoroacetamido-3-(3-fluorophenyl)-6-benzoyl-imidazo[1,2-a]pyridine (14.3 g, 33.6 mmol) was converted to product in a manner substantially analogous to Example 56 to yield 8.30 g. (74.7%). EA, MS(FD).

reactant | 2-trifluoroacetamido-3-(3-fluorophenyl)-6-benzoyl-imidazo[1,2-a]pyridine | 33.6 mmol, 14.3 g | FC(C(=O)NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1C1=CC(=CC=C1)F)(F)F | C22H13F4N3O2
solvent | EA | CC(OCC)=O | C4H8O2
product | 2-Amino-3-(3-fluorophenyl)-6-benzoyl-imidazo[1,2-a]pyridine | NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1C1=CC(=CC=C1)F | C20H14FN3O
